US04968829
1-Bromo-4-(1-methylpropylthio)benzene is prepared by the following procedure. To a solution of 4-bromobenzenethiol (4.73 g, 5.0 mmol) in 25 ml of DMF at 70° under N2 is added potassium carbonate (4.15 g, 30.0 mmol). The mixture is allowed to stir for 15 min., after which 3-bromobutane (4.8 ml, 44.0 mmol) is added dropwise. The mixture is stirred at 70° for ca. 5 hours. Water is added to the cooled solution and the aqueous phase is extracted with ether (3×). The combined organic layers are washed with water and with brine and dried and the solvent is removed in vacuo to give, following purification by distillation under vacuum, 1-bromo-4-[1-methylpropylthio)benzene.

reactant | 4-bromobenzenethiol | 5.0 mmol, 4.73 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromobutane | 44.0 mmol, 4.8 ml | BrC(CC)C | C4H9Br
reactant | Water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-4-(1-methylpropylthio)benzene | BrC1=CC=C(C=C1)SC(CC)C | C10H13BrS
